US06897208B2
A solution of 4-chloro-benzene-1,2-diamine (500 mg) in hydrochloric acid (4N) was treated with 4-nitro-pyrazole-3-carboxylic acid (826 mg) then heated at reflux temperature, under nitrogen. The reaction mixture was cooled to room temperature when the pH was adjusted to 8 by addition of ammonium hydroxide and the mixture was extracted with ethyl acetate. The extracts were evaporated to give 5-chloro-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzoimidazole. (b) 5,6-dichloro-2-(4-nitro-1H-pyrazol -3-yl)-1H-benzoimidazole

reactant | 4-chloro-benzene-1,2-diamine | 500 mg | ClC=1C=C(C(=CC1)N)N | C6H7ClN2
reactant | 4-nitro-pyrazole-3-carboxylic acid | 826 mg | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 4N | Cl | ClH
product | 5-chloro-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzoimidazole | ClC1=CC2=C(NC(=N2)C2=NNC=C2[N+](=O)[O-])C=C1 | C10H6ClN5O2
